US04022807
vanadium oxytrichloride was reacted with tri (p-bromophenyl) silanol, (m.p. = 120-121° C.) to produce tris[(p-bromophenyl)-siloxy]-vanadium oxide (m.p. = 175° C.); and

reactant | vanadium oxytrichloride | O=[V].Cl.Cl.Cl
reactant | tri (p-bromophenyl) silanol | BrC1=CC=C(C=C1)[Si](O)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C18H13Br3OSi
product | tris[(p-bromophenyl)-siloxy]-vanadium oxide | [O-2].BrC1=CC=C(C=C1)[SiH2]O[V+2](O[SiH2]C1=CC=C(C=C1)Br)O[SiH2]C1=CC=C(C=C1)Br | InChI=1S/3C6H6BrOSi.O.V/c3*7-5-1-3-6(9-8)4-2-5;;/h3*1-4H,9H2;;/q3*-1;-2;+5
